US07507740B2
(i) Production of 6-(4-methoxyphenyl)-5H-pyrrolo[3,2-d]pyrimidin-4-ol
Ethyl 3-amino-5-(4-methoxyphenyl)-1H-pyrrole-2-carboxylate (7.2 g) was dissolved in tetrahydrofuran (16 mL)/ethanol (32 mL), formamidine (3.46 g) was added, and the mixture was stirred at 90° C. for 16 hrs. After cooling to room temperature, tetrahydrofuran was evaporated under reduced pressure. The residue was diluted with ethanol (20 mL), and the precipitated powder was collected by filtration, washed with ethanol (15 mL) and dried under reduced pressure to give the title compound (769 mg).

reactant | Ethyl 3-amino-5-(4-methoxyphenyl)-1H-pyrrole-2-carboxylate | 7.2 g | NC1=C(NC(=C1)C1=CC=C(C=C1)OC)C(=O)OCC | C14H16N2O3
reactant | formamidine | 3.46 g | C(=N)N | CH4N2
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
solvent | ethanol | 32 mL | C(C)O | C2H6O
product | 6-(4-methoxyphenyl)-5H-pyrrolo[3,2-d]pyrimidin-4-ol | 769 mg | COC1=CC=C(C=C1)C1=CC=2N=CN=C(C2N1)O | C13H11N3O2
